US05124324
1-Benzyl-2-piperidinemethanol
To an ice-cooled THF solution of tetrabutylammonium fluoride (1M, 3.2 ml) was dropwise added a THF (2 ml) solution of 1-benzyl-2-(tert-butyldimethylsilyloxymethyl)-piperidine (1.00 g, 3.2 mmol). After stirring at room temperature for 2 hours, a reaction solution was poured onto water followed by extraction with ethyl acetate (30 ml). The extract was washed successively with water and saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The crude product thus obtained was purified by a column chromatography on silica gel (SiO2 : 20 g, CHCl3) to afford 0.41 g of the title compound.

reactant | tetrabutylammonium fluoride | 1M, 3.2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-benzyl-2-(tert-butyldimethylsilyloxymethyl)-piperidine | 3.2 mmol, 1.00 g | C(C1=CC=CC=C1)N1C(CCCC1)CO[Si](C)(C)C(C)(C)C | C19H33NOSi
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-2-piperidinemethanol | 0.41 g | C(C1=CC=CC=C1)N1C(CCCC1)CO | C13H19NO
